US03989832
EXAMPLE 48- PREPARATION OF 3-(1-METHYL-2-NITRO-5-IMIDAZOLYL)-6-[N-METHYL-N-(β-DIMETHYLAMINOETHYL)-AMINO]-S-TRIAZOLO[ 4,3-b]PYRIDAZINE
0.65 g. 3-(1-methyl-2-nitro-5-imidazolyl)-6-chloro-s-triazolo[4,3-b]pyridazine were reacted in 13 ml. dimethyl formamide with 0.5 g. trimethylethylenediamine at 60° C. for 15 minutes. After working up the reaction mixture in a manner analogous to that described in Example 47, there was obtained 0.6 g. (75 percent of theory) of the desired 3-(1-methyl-2-nitro-5 -imidazolyl)-6-[N-methyl-N-(β-dimethyl-aminoethyl)-amino] -s-triazolo[4,3-b]pyridazine in the form of yellow crystals which have a melting point of 196° - 198° C.

reactant | 3-(1-methyl-2-nitro-5-imidazolyl)-6-chloro-s-triazolo[4,3-b]pyridazine | CN1C(=NC=C1C1=NN=C2N1N=C(C=C2)Cl)[N+](=O)[O-] | C9H6ClN7O2
reactant | trimethylethylenediamine | CNCCN(C)C | C5H14N2
solvent | dimethyl formamide | CN(C=O)C | C3H7NO
product | 3-(1-METHYL-2-NITRO-5-IMIDAZOLYL)-6-[N-METHYL-N-(β-DIMETHYLAMINOETHYL)-AMINO]-S-TRIAZOLO[ 4,3-b]PYRIDAZINE | CN1C(=NC=C1C1=NN=C2N1N=C(C=C2)N(CCN(C)C)C)[N+](=O)[O-] | C14H19N9O2
